US08669266B2
(viii) 4-[(S)-4-Benzyloxy-2-({4-[(R)-2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester
To a solution of 1.0 g 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid in 30 ml DMF were added 1.2 g DIPEA, 319 mg HOAt and 450 mg EDC. After 5 minutes 1.1 g 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate were added and the mixture stirred for 16 h. The mixture was concentrated, diluted with DCM and washed with aqueous LiCl (4%), saturated aqueous NaHCO3 and brine. The crude product was used in the next reaction step. Yield: 2.8 g.

reactant | 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | 1.0 g | C1(CCC1)NC(=O)[C@H]1N(CCC1)C([C@H](OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)C)=O | C23H27N3O5
reactant | DIPEA | 1.2 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HOAt | 319 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid butyl ester | 1.1 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)N)=O | C20H31N3O4
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EDC | 450 mg
product | 4-[(S)-4-Benzyloxy-2-({4-[(R)-2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@@H](C(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)C)=O | C43H56N6O8
